US04017519
2-Difluoromethyl-2-trifluoromethyl-1,3-dioxolane (50 g.) was placed in a 500 ml. flask along with 1,2,2-trifluoroperchloroethane (Freon 113) (425 ml.) and the solution cooled to -20° C. The mixture was fluorinated with 20% fluorine in argon at a fluorine rate of 0.1 mole per hour until about 1.5 moles of fluorine were added. An 8° (Centigrade) exotherm was observed during the reaction. The acidic mixture was stirred over K2CO3 until the vapors above the mixture no longer tested strongly acidic. The mixture was filtered and Freon 113 was stripped out of the filtrate, leaving 59 g. of crude product. By preparative chromatography pure 2-difluoromethyl-2-trifluoromethyl-4,4,5-trifluoro-1,3-dioxolane (12 g.) was isolated from the crude material.

reactant | 2-Difluoromethyl-2-trifluoromethyl-1,3-dioxolane | 50 g | FC(C1(OCCO1)C(F)(F)F)F | C5H5F5O2
reactant | fluorine | FF | F2
reactant | fluorine | about 1.5 moles | FF | F2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2,2-trifluoroperchloroethane | 425 ml | FC(C(F)(F)Cl)(Cl)Cl | C2Cl3F3
product | 2-difluoromethyl-2-trifluoromethyl-4,4,5-trifluoro-1,3-dioxolane | 12 g | FC(C1(OC(C(O1)(F)F)F)C(F)(F)F)F | C5H2F8O2
